US05385925
4'-[[2-Ethyl-6-(4,5-dihydro-2H-pyridazin-3-on-6-yl)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylic acid
Prepared analogously to Example 64 from methyl 4'-[[2-ethyl-6-(4,5-dihydro-2H-pyridazin-3-on-6-yl)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate and sodium hydroxide solution in ethanol.

reactant | methyl 4'-[[2-ethyl-6-(4,5-dihydro-2H-pyridazin-3-on-6-yl)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylate | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC)C=C(C=C2)C=2CCC(NN2)=O | C28H26N4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4'-[[2-Ethyl-6-(4,5-dihydro-2H-pyridazin-3-on-6-yl)-benzimidazol-1-yl]methyl]biphenyl-2-carboxylic acid | C(C)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)C=2CCC(NN2)=O | C27H24N4O3
